US08981111B2
To a mixture of lithium chloride (0.77 g, 18.2 mmol) and copper(I) iodide (0.087 g, 0.45 mmol) was added diethylether (30 ml). After stirring for 5 minutes a solution of N-methoxy-N,4-dimethyl-1,3-oxazole-5-carboxamide (2.58 g, 15.16 mmol) in diethylether (30 ml) was added followed by the slow addition of phenylmagnesium bromide (4.12 g, 22.74 mmol). After stirring for 20 hours at room temperature 1N HCl (20 mL) and water (30 mL) were added. The mixture was extracted with dichloromethane, the organic layer was washed with water, dried over MgSO4, filtered and concentrated in vacuo. Purification of the crude material on silica gel afforded (4-methyl-1,3-oxazol-5-yl)(phenyl)methanone (1.08 g, 30%)

reactant | lithium chloride | 18.2 mmol, 0.77 g | [Cl-].[Li+]
reactant | N-methoxy-N,4-dimethyl-1,3-oxazole-5-carboxamide | 15.16 mmol, 2.58 g | CON(C(=O)C1=C(N=CO1)C)C | C7H10N2O3
reactant | phenylmagnesium bromide | 22.74 mmol, 4.12 g | C1(=CC=CC=C1)[Mg]Br
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | diethylether | 30 ml | C(C)OCC | C4H10O
catalyst | copper(I) iodide | 0.45 mmol, 0.087 g | [Cu]I
solvent | diethylether | 30 ml | C(C)OCC | C4H10O
solvent | water | 30 mL | O | H2O
product | (4-methyl-1,3-oxazol-5-yl)(phenyl)methanone | 1.08 g, 30% | CC=1N=COC1C(=O)C1=CC=CC=C1 | C11H9NO2
